US07566724B2
To a solution of (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid (10.60 g) in methanol (200 ml), 1N aqueous sodium hydroxide solution (22.5 ml) was added, and the resulting mixture was stirred at room temperature for 5 minutes. The reaction solution was concentrated to dryness to obtain (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid sodium salt (11.08 g). IR(KBr)cm−1: 3385, 1584, 1552, 1486, 1431, 1397, 1315, 1195, 1112, 968, 799.

reactant | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid | 10.60 g | ClC1=C(C(=O)N[C@H](C(=O)O)C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C)C(=CC=C1)Cl | C23H20Cl2N4O3
reactant | sodium hydroxide | 1N, 22.5 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid sodium salt | 11.08 g | [Na+].ClC1=C(C(=O)N[C@H](C(=O)[O-])C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C)C(=CC=C1)Cl | InChI=1S/C23H20Cl2N4O3.Na/c1-29(23-26-13-4-14-27-23)16-11-9-15(10-12-16)5-2-8-19(22(31)32)28-21(30)20-17(24)6-3-7-18(20)25;/h2-7,9-14,19H,8H2,1H3,(H,28,30)(H,31,32);/q;+1/p-1/b5-2+;/t19-;/m0./s1
